* /home/ameya/eSim-Workspace/10b5/10b5.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Thu Jul 30 12:30:29 2020

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
R1  /vdd Net-_R1-Pad2_ 1k		
R2  Net-_R1-Pad2_ Net-_R2-Pad2_ 1k		
R3  Net-_R2-Pad2_ Net-_R3-Pad2_ 1k		
R4  Net-_R3-Pad2_ Net-_R4-Pad2_ 1k		
v1  /vdd GND DC		
v2  d0 GND pulse		
v3  d1 GND pulse		
v4  d2 GND pulse		
v5  d3 GND pulse		
v6  d4 GND pulse		
v7  d5 GND pulse		
v8  d6 GND pulse		
v9  d7 GND pulse		
v10  d8 GND pulse		
v11  d9 GND pulse		
R5  Net-_R4-Pad2_ Net-_R5-Pad2_ 1k		
R6  Net-_R5-Pad2_ Net-_R6-Pad2_ 1k		
R7  Net-_R6-Pad2_ Net-_R7-Pad2_ 1k		
R8  Net-_R7-Pad2_ Net-_R8-Pad2_ 1k		
X1  d0 /vdd GND Net-_R8-Pad2_ Net-_R7-Pad2_ Net-_X1-Pad6_ swi		
X3  d0 /vdd GND Net-_R6-Pad2_ Net-_R5-Pad2_ Net-_X3-Pad6_ swi		
X5  d0 /vdd GND Net-_R4-Pad2_ Net-_R3-Pad2_ Net-_X5-Pad6_ swi		
X2  d0 /vdd GND Net-_R2-Pad2_ Net-_R1-Pad2_ Net-_X2-Pad6_ swi		
X6  d1 /vdd GND Net-_X1-Pad6_ Net-_X3-Pad6_ Net-_X10-Pad4_ swi		
X8  d1 /vdd GND Net-_X3-Pad6_ Net-_X5-Pad6_ Net-_X10-Pad5_ swi		
X7  d1 /vdd GND Net-_X5-Pad6_ Net-_X2-Pad6_ Net-_X12-Pad5_ swi		
X10  d2 /vdd GND Net-_X10-Pad4_ Net-_X10-Pad5_ Net-_X10-Pad6_ swi		
X12  d2 /vdd GND Net-_X10-Pad5_ Net-_X12-Pad5_ Net-_X12-Pad6_ swi		
X13  d3 /vdd GND Net-_X10-Pad6_ Net-_X12-Pad6_ Net-_X13-Pad6_ swi		
R9  Net-_R8-Pad2_ Net-_R10-Pad1_ 1k		
R10  Net-_R10-Pad1_ Net-_R10-Pad2_ 1k		
R11  Net-_R10-Pad2_ GND 1k		
X4  d0 /vdd GND Net-_R10-Pad2_ Net-_R10-Pad1_ Net-_X4-Pad6_ swi		
X9  d1 /vdd GND Net-_X4-Pad6_ Net-_X1-Pad6_ Net-_X11-Pad4_ swi		
X11  d2 /vdd GND Net-_X11-Pad4_ Net-_X10-Pad4_ Net-_X11-Pad6_ swi		
X14  d3 /vdd GND Net-_X11-Pad6_ Net-_X10-Pad6_ Net-_X14-Pad6_ swi		
X15  d4 /vdd GND Net-_X14-Pad6_ Net-_X13-Pad6_ /out1 swi		
R12  Net-_R10-Pad2_ Net-_R12-Pad2_ 1k		
R13  Net-_R12-Pad2_ Net-_R13-Pad2_ 1k		
R14  Net-_R13-Pad2_ Net-_R14-Pad2_ 1k		
R15  Net-_R14-Pad2_ Net-_R15-Pad2_ 1k		
R16  Net-_R15-Pad2_ Net-_R16-Pad2_ 1k		
R17  Net-_R16-Pad2_ Net-_R17-Pad2_ 1k		
R18  Net-_R17-Pad2_ Net-_R18-Pad2_ 1k		
R19  Net-_R18-Pad2_ Net-_R19-Pad2_ 1k		
X16  d5 /vdd GND Net-_R19-Pad2_ Net-_R18-Pad2_ Net-_X16-Pad6_ swi		
X18  d5 /vdd GND Net-_R17-Pad2_ Net-_R16-Pad2_ Net-_X18-Pad6_ swi		
X20  d5 /vdd GND Net-_R15-Pad2_ Net-_R14-Pad2_ Net-_X20-Pad6_ swi		
X17  d5 /vdd GND Net-_R13-Pad2_ Net-_R12-Pad2_ Net-_X17-Pad6_ swi		
X21  d6 /vdd GND Net-_X16-Pad6_ Net-_X18-Pad6_ Net-_X21-Pad6_ swi		
X23  d6 /vdd GND Net-_X18-Pad6_ Net-_X20-Pad6_ Net-_X23-Pad6_ swi		
X22  d6 /vdd GND Net-_X20-Pad6_ Net-_X17-Pad6_ Net-_X22-Pad6_ swi		
X25  d7 /vdd GND Net-_X21-Pad6_ Net-_X23-Pad6_ Net-_X25-Pad6_ swi		
X27  d7 /vdd GND Net-_X23-Pad6_ Net-_X22-Pad6_ Net-_X27-Pad6_ swi		
X28  d8 /vdd GND Net-_X25-Pad6_ Net-_X27-Pad6_ Net-_X28-Pad6_ swi		
R20  Net-_R19-Pad2_ Net-_R20-Pad2_ 1k		
R21  Net-_R20-Pad2_ Net-_R21-Pad2_ 1k		
R22  Net-_R21-Pad2_ GND 1k		
X19  d5 /vdd GND Net-_R21-Pad2_ Net-_R20-Pad2_ Net-_X19-Pad6_ swi		
X24  d6 /vdd GND Net-_X19-Pad6_ Net-_X16-Pad6_ Net-_X24-Pad6_ swi		
X26  d7 /vdd GND Net-_X24-Pad6_ Net-_X21-Pad6_ Net-_X26-Pad6_ swi		
X29  d8 /vdd GND Net-_X26-Pad6_ Net-_X25-Pad6_ Net-_X29-Pad6_ swi		
X30  d9 /vdd GND Net-_X29-Pad6_ Net-_X28-Pad6_ /out2 swi		
U2  /out2 plot_v1		
U1  /out1 plot_v1		

.end
