*  home ameya esim-workspace 10b5 10b5.cir

.include swi.sub
r1   vdd net-_r1-pad2_ 1k
r2  net-_r1-pad2_ net-_r2-pad2_ 1k
r3  net-_r2-pad2_ net-_r3-pad2_ 1k
r4  net-_r3-pad2_ net-_r4-pad2_ 1k
v1  vdd gnd  dc 3.3
v2  d0 gnd pulse(0 1.8 0 50p 50p 10u 20u)
v3  d1 gnd pulse(0 1.8 1u 50p 50p 10u 20u)
v4  d2 gnd pulse(0 1.8 2u 50p 50p 10u 20u)
v5  d3 gnd pulse(0 1.8 3u 50p 50p 10u 20u)
v6  d4 gnd pulse(0 1.8 4u 50p 50p 10u 20u)
v7  d5 gnd pulse(0 1.8 5u 50p 50p 10u 20u)
v8  d6 gnd pulse(0 1.8 6u 50p 50p 10u 20u)
v9  d7 gnd pulse(0 1.8 7u 50p 50p 10u 20u)
v10  d8 gnd pulse(0 1.8 8u 50p 50p 10u 20u)
v11  d9 gnd pulse(0 1.8 9u 50p 50p 10u 20u)
r5  net-_r4-pad2_ net-_r5-pad2_ 1k
r6  net-_r5-pad2_ net-_r6-pad2_ 1k
r7  net-_r6-pad2_ net-_r7-pad2_ 1k
r8  net-_r7-pad2_ net-_r8-pad2_ 1k
x1 d0  vdd gnd net-_r8-pad2_ net-_r7-pad2_ net-_x1-pad6_ swi
x3 d0  vdd gnd net-_r6-pad2_ net-_r5-pad2_ net-_x3-pad6_ swi
x5 d0  vdd gnd net-_r4-pad2_ net-_r3-pad2_ net-_x5-pad6_ swi
x2 d0  vdd gnd net-_r2-pad2_ net-_r1-pad2_ net-_x2-pad6_ swi
x6 d1  vdd gnd net-_x1-pad6_ net-_x3-pad6_ net-_x10-pad4_ swi
x8 d1  vdd gnd net-_x3-pad6_ net-_x5-pad6_ net-_x10-pad5_ swi
x7 d1  vdd gnd net-_x5-pad6_ net-_x2-pad6_ net-_x12-pad5_ swi
x10 d2  vdd gnd net-_x10-pad4_ net-_x10-pad5_ net-_x10-pad6_ swi
x12 d2  vdd gnd net-_x10-pad5_ net-_x12-pad5_ net-_x12-pad6_ swi
x13 d3  vdd gnd net-_x10-pad6_ net-_x12-pad6_ net-_x13-pad6_ swi
r9  net-_r8-pad2_ net-_r10-pad1_ 1k
r10  net-_r10-pad1_ net-_r10-pad2_ 1k
r11  net-_r10-pad2_ gnd 1k
x4 d0  vdd gnd net-_r10-pad2_ net-_r10-pad1_ net-_x4-pad6_ swi
x9 d1  vdd gnd net-_x4-pad6_ net-_x1-pad6_ net-_x11-pad4_ swi
x11 d2  vdd gnd net-_x11-pad4_ net-_x10-pad4_ net-_x11-pad6_ swi
x14 d3  vdd gnd net-_x11-pad6_ net-_x10-pad6_ net-_x14-pad6_ swi
x15 d4  vdd gnd net-_x14-pad6_ net-_x13-pad6_  out1 swi
r12  net-_r10-pad2_ net-_r12-pad2_ 1k
r13  net-_r12-pad2_ net-_r13-pad2_ 1k
r14  net-_r13-pad2_ net-_r14-pad2_ 1k
r15  net-_r14-pad2_ net-_r15-pad2_ 1k
r16  net-_r15-pad2_ net-_r16-pad2_ 1k
r17  net-_r16-pad2_ net-_r17-pad2_ 1k
r18  net-_r17-pad2_ net-_r18-pad2_ 1k
r19  net-_r18-pad2_ net-_r19-pad2_ 1k
x16 d5  vdd gnd net-_r19-pad2_ net-_r18-pad2_ net-_x16-pad6_ swi
x18 d5  vdd gnd net-_r17-pad2_ net-_r16-pad2_ net-_x18-pad6_ swi
x20 d5  vdd gnd net-_r15-pad2_ net-_r14-pad2_ net-_x20-pad6_ swi
x17 d5  vdd gnd net-_r13-pad2_ net-_r12-pad2_ net-_x17-pad6_ swi
x21 d6  vdd gnd net-_x16-pad6_ net-_x18-pad6_ net-_x21-pad6_ swi
x23 d6  vdd gnd net-_x18-pad6_ net-_x20-pad6_ net-_x23-pad6_ swi
x22 d6  vdd gnd net-_x20-pad6_ net-_x17-pad6_ net-_x22-pad6_ swi
x25 d7  vdd gnd net-_x21-pad6_ net-_x23-pad6_ net-_x25-pad6_ swi
x27 d7  vdd gnd net-_x23-pad6_ net-_x22-pad6_ net-_x27-pad6_ swi
x28 d8  vdd gnd net-_x25-pad6_ net-_x27-pad6_ net-_x28-pad6_ swi
r20  net-_r19-pad2_ net-_r20-pad2_ 1k
r21  net-_r20-pad2_ net-_r21-pad2_ 1k
r22  net-_r21-pad2_ gnd 1k
x19 d5  vdd gnd net-_r21-pad2_ net-_r20-pad2_ net-_x19-pad6_ swi
x24 d6  vdd gnd net-_x19-pad6_ net-_x16-pad6_ net-_x24-pad6_ swi
x26 d7  vdd gnd net-_x24-pad6_ net-_x21-pad6_ net-_x26-pad6_ swi
x29 d8  vdd gnd net-_x26-pad6_ net-_x25-pad6_ net-_x29-pad6_ swi
x30 d9  vdd gnd net-_x29-pad6_ net-_x28-pad6_  out2 swi
* u2   out2 plot_v1
* u1   out1 plot_v1
.tran 1e-06 30e-06 0e-06

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v( out2)
plot v( out1)
.endc
.end
