* /home/ameya/esim/eSim-2.0/library/SubcircuitLibrary/lm_741/lm_741.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Thu Jul 30 11:22:43 2020

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
Q1  Net-_Q1-Pad1_ Net-_Q1-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
Q2  Net-_Q1-Pad1_ Net-_Q2-Pad2_ Net-_Q2-Pad3_ eSim_NPN		
Q6  Net-_Q3-Pad2_ Net-_Q13-Pad1_ Net-_Q1-Pad3_ eSim_PNP		
Q5  Net-_C1-Pad2_ Net-_Q13-Pad1_ Net-_Q2-Pad3_ eSim_PNP		
Q3  Net-_Q10-Pad3_ Net-_Q3-Pad2_ Net-_Q3-Pad3_ eSim_NPN		
Q4  Net-_Q1-Pad1_ Net-_Q1-Pad1_ Net-_Q10-Pad3_ eSim_PNP		
Q9  Net-_Q13-Pad1_ Net-_Q1-Pad1_ Net-_Q10-Pad3_ eSim_PNP		
Q8  Net-_C1-Pad2_ Net-_Q3-Pad3_ Net-_Q8-Pad3_ eSim_NPN		
Q7  Net-_Q3-Pad2_ Net-_Q3-Pad3_ Net-_Q7-Pad3_ eSim_NPN		
R1  Net-_Q7-Pad3_ Net-_Q12-Pad3_ 1k		
R2  Net-_Q3-Pad3_ Net-_Q12-Pad3_ 50k		
R3  Net-_Q8-Pad3_ Net-_Q12-Pad3_ 1k		
Q12  Net-_Q12-Pad1_ Net-_Q12-Pad1_ Net-_Q12-Pad3_ eSim_NPN		
Q13  Net-_Q13-Pad1_ Net-_Q12-Pad1_ Net-_Q13-Pad3_ eSim_NPN		
R4  Net-_Q13-Pad3_ Net-_Q12-Pad3_ 5k		
R11  Net-_Q10-Pad1_ Net-_Q12-Pad1_ 39k		
Q10  Net-_Q10-Pad1_ Net-_Q10-Pad1_ Net-_Q10-Pad3_ eSim_PNP		
Q11  Net-_C1-Pad1_ Net-_Q10-Pad1_ Net-_Q10-Pad3_ eSim_PNP		
Q14  Net-_C1-Pad1_ Net-_Q14-Pad2_ Net-_Q14-Pad3_ eSim_NPN		
R8  Net-_C1-Pad1_ Net-_Q14-Pad2_ 4.5k		
R7  Net-_Q14-Pad3_ Net-_Q14-Pad2_ 7.5k		
C1  Net-_C1-Pad1_ Net-_C1-Pad2_ 30p		
Q16  Net-_Q14-Pad3_ Net-_C1-Pad2_ Net-_Q15-Pad2_ eSim_NPN		
Q15  Net-_Q14-Pad3_ Net-_Q15-Pad2_ Net-_Q15-Pad3_ eSim_NPN		
R5  Net-_Q15-Pad2_ Net-_Q12-Pad3_ 50k		
R6  Net-_Q15-Pad3_ Net-_Q12-Pad3_ 50		
Q17  Net-_C1-Pad2_ Net-_Q15-Pad3_ Net-_Q12-Pad3_ eSim_NPN		
Q18  Net-_Q10-Pad3_ Net-_C1-Pad1_ Net-_Q18-Pad3_ eSim_NPN		
Q20  Net-_C1-Pad1_ Net-_Q18-Pad3_ Net-_Q20-Pad3_ eSim_NPN		
R9  Net-_Q18-Pad3_ Net-_Q20-Pad3_ 25		
R10  Net-_Q20-Pad3_ Net-_Q19-Pad3_ 50		
Q19  Net-_Q12-Pad3_ Net-_Q14-Pad3_ Net-_Q19-Pad3_ eSim_PNP		
U1  Net-_Q7-Pad3_ Net-_Q2-Pad2_ Net-_Q1-Pad2_ Net-_Q12-Pad3_ Net-_Q8-Pad3_ Net-_Q20-Pad3_ Net-_Q10-Pad3_ ? PORT		

.end
