* /home/ameya/esim/esim-2.0/library/subcircuitlibrary/swi/swi.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m1 /d0 /d /gnd /gnd CMOSN W=0.36u L=0.18u M=1
m2 /vdd /d /d0 /vdd CMOSP W=0.9u L=0.18u M=1
m5 /out /d /vih /vdd CMOSP W=0.9u L=0.18u M=1
m3 /out /d0 /vih /gnd CMOSN W=0.36u L=0.18u M=1
m6 /vil /d /out /gnd CMOSN W=0.36u L=0.18u M=1
m4 /vil /d0 /out /vdd CMOSP W=0.9u L=0.18u M=1
* u1  /d /vdd /gnd /vih /vil /out port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
